US09255110B2
An aqueous solution of sodium hydroxide (10%, 5 mL) was added to a suspension of 6-cyano-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester (0.35 mg, 1.62 mmol) in ethanol (5 mL) and the reaction mixture was heated at 60° C. for 5 hours. Ice-water was added and the resulting mixture was acidified until pH<1 by addition of an aqueous solution of hydrochloric acid (3 M). The solid which crashed out was collected by filtration, washed twice with water, methanol and diethyl ether, dried under reduced pressure to afford 0.25 g (75% yield) of 6-carbamoyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid.

reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | 6-cyano-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | 1.62 mmol, 0.35 mg | C(C)OC(=O)C=1C=NN2C1N=CC(=C2)C#N | C10H8N4O2
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-carbamoyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.25 g, 75% yield | C(N)(=O)C=1C=NC=2N(C1)N=CC2C(=O)O | C8H6N4O3
